US09085531B2
4-benzofuran-2-yl-2,8-dimethyl-1,2,3,4-tetrahydroisoquinoline, maleate salt (99.0% AUC HPLC) was prepared as described in Example 26 from 2-acetylbenzofuran and 2-tolylmethylamine: 1H NMR (300 MHz, MeOD) δ□ 7.57 (d, J=6.9 Hz, 1H), □ 7.43 (d, J=8.1 Hz, 1H), 7.10-7.31 (m, 5H), 6.67 (s, 1H), 6.21 (s, 2H), 4.87-4.89 (m, 1H), 4.51 (s, 2H), 3.89-3.93 (m, 2H), 3.15 (s, 3H), 2.35 (s, 3H), EI MS m/z=278 [C19H19NO+H]+. Anal. Calcd. for C23H23NO5: C, 69.39; H, 6.00; N, 3.45 with 0.46% H2O and 2.5% EtOH. Found: C, 68.38; H, 6.30; N, 3.30.

reactant | 2-acetylbenzofuran | C(C)(=O)C=1OC2=C(C1)C=CC=C2 | C10H8O2
reactant | 2-tolylmethylamine | C1(=C(C=CC=C1)CN)C | C8H11N
reactant | MeOD | CO[2H] | CH4O
reactant | H2O | O | H2O
reactant | EtOH | CCO | C2H6O
product | 4-benzofuran-2-yl-2,8-dimethyl-1,2,3,4-tetrahydroisoquinoline, maleate salt | 99.0% | C(\C=C/C(=O)O)(=O)O.O1C(=CC=C2C1=CC=C2)C2N(CCC1=CC=CC(=C21)C)C | InChI=1S/C19H19NO.C4H4O4/c1-13-5-3-7-15-11-12-20(2)19(18(13)15)17-10-9-14-6-4-8-16(14)21-17;5-3(6)1-2-4(7)8/h3-10,19H,11-12H2,1-2H3;1-2H,(H,5,6)(H,7,8)/b;2-1-
